US05846990
A. 2-Oxo-1-piperidinecarboxylic acid, 1,1-dimethylethyl ester
To δ-valerolactam (3.36 g, 33.90 mmol) in 56.5 ml CH2Cl2, triethylamine (3.6 g, 35.59 mmol) and di-t-butyl dicarbonate (14.8 g, 67.80 mmol) were added followed by 4-dimethylaminopyridine (4.14 g, 33.90 mmol). The mixture was stirred at room temperature overnight and concentrated. The residue was chromatographed on silica gel using 5.5:1 hexane/EtOAc to give the title compound of this step (4.90 g, 73%) as a light yellow oil.

reactant | δ-valerolactam | 33.90 mmol, 3.36 g | C1(CCCCN1)=O | C5H9NO
reactant | triethylamine | 35.59 mmol, 3.6 g | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 67.80 mmol, 14.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 56.5 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 33.90 mmol, 4.14 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Oxo-1-piperidinecarboxylic acid, 1,1-dimethylethyl ester | O=C1N(CCCC1)C(=O)OC(C)(C)C | C10H17NO3
